US08067445B2
Step 5: 1-(2-Bromo-5-trifluoromethyl-benzyl)-1-ethyl-3-methyl-urea
To (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine (0.5 g, 1.8 mmol) in CH2Cl2 (5 mL) was added triethylamine (0.5 mL, 3.5 mmol), followed by methyl isocyanate (0.121 g, 2.2 mmol), and the reaction was stirred at room temperature under N2 for 30 minutes. The mixture was worked-up with CH2Cl2 and H2O, and the residue was purified by silica gel chromatography to give the title compound.

reactant | (2-bromo-5-trifluoromethyl-benzyl)-ethyl-amine | 1.8 mmol, 0.5 g | BrC1=C(CNCC)C=C(C=C1)C(F)(F)F | C10H11BrF3N
reactant | triethylamine | 3.5 mmol, 0.5 mL | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 2.2 mmol, 0.121 g | CN=C=O | C2H3NO
reactant | H2O | O | H2O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-Bromo-5-trifluoromethyl-benzyl)-1-ethyl-3-methyl-urea | BrC1=C(CN(C(=O)NC)CC)C=C(C=C1)C(F)(F)F | C12H14BrF3N2O
